US08207167B2
2,4-Difluoro-3′-methylbiphenyl (ABD875c)
Using a method analogous to Method B, using 3-bromotoluene and 2,4-difluorobenzene boronic acid, the title compound was obtained as a clear oil.

reactant | 3-bromotoluene | BrC=1C=C(C=CC1)C | C7H7Br
reactant | 2,4-difluorobenzene boronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | 2,4-Difluoro-3′-methylbiphenyl | FC1=C(C=CC(=C1)F)C1=CC(=CC=C1)C | C13H10F2
